US05262387
1. 2-Isopropylaminocarbonyl-5-methylpyridine-3-carboxylic acid
3.25 g of isopropylamine are added to 8.1 g of 5-methylpyridine-2,3-dicarboxylic anhydride in 50 ml of methylene chloride at from 20° to 30° C. while stirring, and the stirred mixture is refluxed for 3 hours. The reaction mixture is evaporated down under reduced pressure and the residue is stirred in a 1:1:1 mixture of ether, methyl tert-butyl ether and petroleum ether. Filtration under suction and drying give 10.1 g of the title compound as colorless crystals of melting point 95°-105° C.

reactant | isopropylamine | 3.25 g | C(C)(C)N | C3H9N
reactant | 5-methylpyridine-2,3-dicarboxylic anhydride | 8.1 g | CC=1C=C2C(=NC1)C(=O)OC2=O | C8H5NO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-Isopropylaminocarbonyl-5-methylpyridine-3-carboxylic acid | 10.1 g | C(C)(C)NC(=O)C1=NC=C(C=C1C(=O)O)C | C11H14N2O3
